US05801008
(1) Synthesis of 5-amino-3-methylthio-1-phenylpyrazole-4-carbonitrile
A mixture comprised of 17.0 g (100 mmol) of bis (methylthio)methylenepropanedinitrile, 10.8 g (100mmol) of phenylhydrazine and 80 ml of ethanol was heated under reflux for 2 hours. The solvent was removed through distillation, and 20 ml of ethanol was added to the residue, which was thus crystallized. The resulting crystals were taken out by means of filtration under suction to give 20.9 g (9.1 mmol) of the entitled product as colorless, needle-like crystals having a melting point of from 136° to 137° C. The yield was 91%.

reactant | bis (methylthio)methylenepropanedinitrile | 100 mmol, 17.0 g | CSC(SC)=C(C#N)C#N | C6H6N2S2
reactant | phenylhydrazine | 100mmol, 10.8 g | C1(=CC=CC=C1)NN | C6H8N2
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 5-amino-3-methylthio-1-phenylpyrazole-4-carbonitrile | 9.1 mmol, 20.9 g, yield was 91% | NC1=C(C(=NN1C1=CC=CC=C1)SC)C#N | C11H10N4S
